US09359375B2
A solution of 2-bromo-4-fluorobenzonitrile (120 mg, 0.600 mmol), (R)-2-amino-3-(thiophen-2-yl)propanamide (93 mg, 0.547 mmol) and DIEA (0.200 mL, 1.15 mmol) in DMSO (3 mL) was stirred at 120 C for 4 d. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, which was eluted with 0-80% EtOAc in hexane to give (R)-2-(3-bromo-4-cyanophenylamino)-3-(thiophen-2-yl)propanamide (35 mg).

reactant | 2-bromo-4-fluorobenzonitrile | 0.600 mmol, 120 mg | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | (R)-2-amino-3-(thiophen-2-yl)propanamide | 0.547 mmol, 93 mg | N[C@@H](C(=O)N)CC=1SC=CC1 | C7H10N2OS
reactant | DIEA | 1.15 mmol, 0.200 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(3-bromo-4-cyanophenylamino)-3-(thiophen-2-yl)propanamide | 35 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)CC=1SC=CC1 | C14H12BrN3OS
